US03985777
To a solution of sodium β,β,β -trifluoroethoxide in β,β,β-trifluoroethanol (prepared by dissolving 2.1 g of sodium in 45 ml of β,β,β-trifluoroethanol), 4-chloro-3-nitro-5-sulphamyl-benzoic acid (4.2 g) was added, and the resulting solution was refluxed for 5 days. After evaporation of the reaction mixture in vacuo, water (50 ml) was added, and the aqueous solution was acidified with 4N hydrochloric acid. After standing in a refrigerator, the precipitate was collected by suction. After several recrystallizations from aqueous ethanol, the 3-nitro-5-sulphamyl-4-(β,β,β-trifluoroethoxy)-benzoic acid was obtained with a melting point of 195°-197° C.

reactant | 4-chloro-3-nitro-5-sulphamyl-benzoic acid | 4.2 g | ClC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C7H5ClN2O6S
reactant | β,β,β-trifluoroethanol | 45 ml, 2.1 g | FC(CO)(F)F | C2H3F3O
product | 3-nitro-5-sulphamyl-4-(β,β,β-trifluoroethoxy)-benzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1OCC(F)(F)F)S(N)(=O)=O | C9H7F3N2O7S
